US07598232B2
To a solution of 3,5-dinitrobenzoyl chloride (10 mmol) in tetrahydrofuran (40 mL) was added drop wise a solution of 2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) in tetrahydrofuran. The solution was stirred overnight and the completion of the reaction was monitored by TLC. The solvent was removed and the residue was taken up in dichloromethane and washed with water. The organic layer was dried over anhydrous sodium sulfate and evaporated to give (E)-2,4,6-trimethoxystyryl-3-(3,5-dinitrobenzamido)-4-methoxybenzylsulfone in 80% yield (m.p. 277-279° C.). NMR (DMSO-d6) δ 3.80 (s, 3H), 3.82(s, 6H), 3.86(s, 3H), 4.35(s, 2H), 6.3(s, 2H), 7.15-9.1(m, aromatic+vinylic), 9.8(s, 1H).

reactant | 3,5-dinitrobenzoyl chloride | 10 mmol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | 2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(C=CC(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)C=CC2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (E)-2,4,6-trimethoxystyryl-3-(3,5-dinitrobenzamido)-4-methoxybenzylsulfone | 80% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C52H48N6O20S
